US05134111
(d) Preparation of 3-methoxy-4-methoxymethoxy-5-propyl-1-naphthalenecarbaldehyde
322 g of 4-hydroxy-3-methoxy-5-propyl-1-naphthalenecarbaldehyde was dissolved in 1.3 liters of N,N-dimethylformamide and cooled to 10° C. 63.3 g of 60% sodium hydride was added to the solution at 30° C. or below and agitated for 20 minutes. The reaction solution was cooled to 5° C., to which 190 ml of chloromethyl methyl ether was added. After agitation at room temperature for 2 hours, the solution was poured into iced water and extracted with ethyl acetate. The resultant organic phase was washed with a saturated saline solution, after which it was dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (10% ethyl acetate/hexane) to obtain 294.5 g of the captioned compound as a brown oily substance.

reactant | 4-hydroxy-3-methoxy-5-propyl-1-naphthalenecarbaldehyde | 322 g | OC1=C(C=C(C2=CC=CC(=C12)CCC)C=O)OC | C15H16O3
reactant | sodium hydride | 63.3 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 190 ml | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1.3 liters | CN(C=O)C | C3H7NO
product | 3-methoxy-4-methoxymethoxy-5-propyl-1-naphthalenecarbaldehyde | 294.5 g | COC=1C=C(C2=CC=CC(=C2C1OCOC)CCC)C=O | C17H20O4
